US08629137B2
Step 5 3-(1-benzylpiperidin-4-yl)-1,3-dihydroimidazo[4,5-c]quinolin-2-one
22.6 g (139 mmol) 1,1′-carbonyldiimidazole were added to 9.00 g (27.1 mmol) N3-(1-benzylpiperidin-4-yl)-quinoline-3,4-diamine in 100 mL DMF. The mixture was heated to 100° C. and stirred for 1.5 h. After the reaction mixture had cooled it was poured onto 300 mL water. The precipitated solid was filtered off, washed with water and dried i. vac. At 30° C. The residue was triturated with diethyl ether, suction filtered and the solid product was dried i. vac.

reactant | 1,1′-carbonyldiimidazole | 139 mmol, 22.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N3-(1-benzylpiperidin-4-yl)-quinoline-3,4-diamine | 27.1 mmol, 9.00 g | C(C1=CC=CC=C1)N1CCC(CC1)NC=1C=NC2=CC=CC=C2C1N | C21H24N4
reactant | water | 300 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-(1-benzylpiperidin-4-yl)-1,3-dihydroimidazo[4,5-c]quinolin-2-one | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C1C=NC=1C=CC=CC21)=O | C22H22N4O
